plaintext
* NMOS: M1, M2, M7
* PMOS: M3, M4, M5, M6

M1 N_VOUT VIN1 N_M7 VSS NMOS
M2 N_VOUT VIN2 N_M7 VSS NMOS
M3 VDD N_M5M6 N_VOUT VDD PMOS
M4 VDD N_M5M6 N_VOUT VDD PMOS
M5 VDD VB1 N_M3M4 VDD PMOS
M6 VDD VB1 N_M3M4 VDD PMOS
M7 N_M7 VB1 GND VSS NMOS

VDD VDD 0 DC 5V
VIN1 VIN1 0 DC 1V
VIN2 VIN2 0 DC 1V
VB1 VB1 0 DC 1.5V

VSS VSS 0 DC 0V
GND GND 0

.control
run
.endc
.end